US03997548
Preparation and pesticidal activity of 2,1-benzisothiazol-7-yl-N-methylcarbamate
To a solution of 2.0 g. 7-hydroxy-2,1-benzisothiazole, 40 ml. dry benzene, and catalytic amounts of triethylenediamine and stannous octoate was added 2.5 g. methylisocyanate. After about five minutes at room temperature, yellow solid carbamate product crystallized from solution. The mixture was allowed to stand at room temperature overnight, then solvent and excess methylisocyanate were removed by evaporation on a rotatory evaporator. The solid residue was washed with hot hexane and isolated by suction filtration to give 2.6 g. yellow, microcrystalline 2,1-benzisothiazol-7-yl N-methylcarbamate, mp. 145°-148° (dec.) after recrystallization from benzene. This structure was confirmed by ir and nmr. The insecticidal activity of this material was determined exactly as described in Example 12, whereby 2,1-benzisothiazol-7-yl N-methylcarbamate (500 ppm. concentration) destroyed 100 percent of Mexican bean beetle larvae and bean aphids, four of five southern armyworms, and had no effect on two-spotted mites.

reactant | 7-hydroxy-2,1-benzisothiazole | OC1=CC=CC2=CSN=C21 | C7H5NOS
reactant | triethylenediamine | C1CN2CCN1CC2 | C6H12N2
reactant | stannous octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
reactant | methylisocyanate | CN=C=O | C2H3NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,1-benzisothiazol-7-yl-N-methylcarbamate | N=1SC=C2C1C(=CC=C2)OC(NC)=O | C9H8N2O2S
